US06262045B1
5.2. Methyl 4-bromo-1H-indole-2-carboxylate
A solution of 116 g (0.41 mol) of methyl 2-azido-3-(2-bromophenyl)prop-2-enoate in 1.5 l of toluene is added dropwise over 4 h, with mechanical stirring, to a solution of 2 l of toluene heated to reflux and reflux is maintained for an additional 1 h. The solvent is evaporated under reduced pressure and the residue is taken up in 2 l of cyclohexane. The precipitate is collected by filtration, washed with toluene and dried under reduced pressure 37.85 g (149 mmol) of product are isolated. The mother liquors are concentrated under reduced pressure and the residue is purified by chromatography on a column of silica gel. 12.2 g (48 mmol) of additional product are isolated.

reactant | methyl 2-azido-3-(2-bromophenyl)prop-2-enoate | 0.41 mol, 116 g | N(=[N+]=[N-])C(C(=O)OC)=CC1=C(C=CC=C1)Br | C10H8BrN3O2
solvent | toluene | 1.5 l | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2 l | C1(=CC=CC=C1)C | C7H8
product | Methyl 4-bromo-1H-indole-2-carboxylate | 48 mmol, 12.2 g | BrC1=C2C=C(NC2=CC=C1)C(=O)OC | C10H8BrNO2
